US07723336B2
To a solution of 1-(4-fluorophenyl)-3-nitropyridin-2(1H)-one (610 mg, 2.6 mmol) from 1a-1 in THF (50 mL) and MeOH (50 mL), were added ammonium chloride (695 mg, 13.0 mmol, EMD) and Zn dust (850 mg, 13.0 mmol, Aldrich). The reaction mixture was stirred at room temperature for 3 h, diluted with 200 mL of EtOAc and filtered through a pad of Celite. The filtrate was concentrated in vacuo to give 3-Amino-1-(4-fluorophenyl)pyridin-2(1H)-one (530 mg, 100% yield) as a brown solid.

reactant | 1-(4-fluorophenyl)-3-nitropyridin-2(1H)-one | 2.6 mmol, 610 mg | FC1=CC=C(C=C1)N1C(C(=CC=C1)[N+](=O)[O-])=O | C11H7FN2O3
reactant | ammonium chloride | 13.0 mmol, 695 mg | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | MeOH | 50 mL | CO | CH4O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | Zn | 13.0 mmol, 850 mg | [Zn] | Zn
product | 3-Amino-1-(4-fluorophenyl)pyridin-2(1H)-one | 530 mg, 100% yield | NC=1C(N(C=CC1)C1=CC=C(C=C1)F)=O | C11H9FN2O
